US05292893
(R,R)-Ethylene-1,2-bis(η5 -4,5,6,7-tetrahydroindenyl) titanium (R)-1,1'-binaphth-2,2'-diolate (30 mg, 0.050 mmol) was dissolved in 4 mL of dry benzene in a Schlenk tube under a nitrogen atmosphere. The tube was wrapped in aluminum foil. A solution of n-butyllithium (41 μL, 0.065 mmol, 1.6M in hexane) was added and the mixture was shaken until it turned a dark red brown color. After 5 min. phenylsilane, (93 μL, 0.75 mmol) was added and the reaction mixture turned blue, then brown, in color. After 10 min. indanone N-methyl imine (72.6 mg, 0.50 mmol) was added. The tube was shaken and left for about 20 hours at room temperature. The resulting solution was diluted with 15 mL of ether and 3 mL of methanol and allowed to stir for 2 hours. The reaction mixture was then washed with 20 mL of water and extracted with 1M HCl (2×20 mL). The aqueous layer was separated, basified with 5 M NaOH (until strongly basic to pH paper), and extracted with ether (2×50 mL). The ether solution was dried over anhydrous sodium sulfate and concentrated to yield 65 mg (0.44 mmol, 88% yield) of N-methyl-1-indanamine as a yellow oil.

reactant | n-butyllithium | 0.065 mmol, 1.6M, 41 μL | C(CCC)[Li]
reactant | phenylsilane | 0.75 mmol, 93 μL | C1(=CC=CC=C1)[SiH3] | C6H8Si
reactant | indanone N-methyl imine | 0.50 mmol, 72.6 mg | CN=C1CCC2=CC=CC=C12 | C10H11N
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
solvent | aluminum | [Al] | Al
solvent | ether | 15 mL | CCOCC | C4H10O
solvent | methanol | 3 mL | CO | CH4O
product | N-methyl-1-indanamine | 0.44 mmol, 65 mg, 88% yield | CNC1CCC2=CC=CC=C12 | C10H13N
